US08048897B2
(1) Synthesis of (2-Benzyloxyphenyl)-(4-tert-butyl-phenyl)methanol
In a nitrogen stream, an n-butyllithium hexane solution (2.44 M, 5.65 mL) was added dropwise to a solution of 1-benzyloxy-2-bromobenzene (3.3 g, 12.5 mmol) in THF (126 mL) at −78° C. and the mixture solution was stirred at the same temperature for 30 minutes. To this solution, a solution of 4-tert-butylbenzaldehyde (1.68 g, 10.4 mmol) in THF (42 mL) was added at −78° C. The reaction mixture was stirred at the same temperature for one hour, and then water was added thereto and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:5)] to obtain the title compound (2.17 g, 60%).

reactant | n-butyllithium hexane | 2.44 M, 5.65 mL | CCCCCC.C(CCC)[Li]
reactant | 1-benzyloxy-2-bromobenzene | 12.5 mmol, 3.3 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)Br | C13H11BrO
reactant | 4-tert-butylbenzaldehyde | 10.4 mmol, 1.68 g | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | water | O | H2O
solvent | THF | 126 mL | C1CCOC1 | C4H8O
solvent | THF | 42 mL | C1CCOC1 | C4H8O
product | (2-Benzyloxyphenyl)-(4-tert-butyl-phenyl)methanol | 2.17 g, 60% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(O)C1=CC=C(C=C1)C(C)(C)C | C24H26O2
